US06441004B1
N-(3-chlorobenzyl)indole-2-carboxylic acid
Ethyl N-(3-chlorobenzyl)indole-2-carboxylate (0.47 g) was dissolved in THF/MeOH (1:1) and sodium hydroxide (2M, 4.5 ml) was added and the reaction stirred for 16 hours. The reaction was then concentrated in vacuo to dryness and the residue dissolved in water. The solution was acidified to pH 3 by dropwise addition of acetic acid, resulting in the precipitation of a white solid which was filtered off, washed with water and dried in vacuo to give the desired end product (0.35 g, 82%), mp 188-189°; NMR δ(CD3SOCD3) 5.85 (s, 2H), 6.90 (d, 1H), 7.1 (m, 2H), 7.3 (m, 4H), 7.55 (d, 1H), 7.70 (d, 1H); M/z (−) 284 (M−H+).

reactant | Ethyl N-(3-chlorobenzyl)indole-2-carboxylate | 0.47 g | ClC=1C=C(CN2C(=CC3=CC=CC=C23)C(=O)OCC)C=CC1 | C18H16ClNO2
reactant | sodium hydroxide | 2M, 4.5 ml | [OH-].[Na+]
solvent | THF MeOH | C1CCOC1.CO
product | N-(3-chlorobenzyl)indole-2-carboxylic acid | 0.35 g, 82% | ClC=1C=C(CN2C(=CC3=CC=CC=C23)C(=O)O)C=CC1 | C16H12ClNO2
